US07214824B2
34(c): Ethyl (3-butoxy-4-tert-butylphenoxy)acetate
3-Butoxy-4-tert-butylphenol (640 mg, 2.9 mmol), potassium carbonate (1.2 g, 8.6 mmol) and ethyl bromoacetate (480 ul, 4.3 mmol) were treated in the same procedure described in Example 33(d). The crude residue was applied to a silica gel chromatography column and eluted with a volume mixture of hexane and ethyl acetate (19/1 to 4/1) to furnish 856 mg (96% yield) of the title compound as a colorless oil.

reactant | 3-Butoxy-4-tert-butylphenol | 2.9 mmol, 640 mg | C(CCC)OC=1C=C(C=CC1C(C)(C)C)O | C14H22O2
reactant | potassium carbonate | 8.6 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 4.3 mmol, 480 ul | BrCC(=O)OCC | C4H7BrO2
product | Ethyl (3-butoxy-4-tert-butylphenoxy)acetate | 856 mg, 96% yield | C(CCC)OC=1C=C(OCC(=O)OCC)C=CC1C(C)(C)C | C18H28O4
